* C:\users\h3l\My Documents\Studium\Auslandssemster\Vorlesungen\SmartSystems\working_directory\simulations\solenoid_driver\20210907_solenoid_driver_draft.asc
V1 24V 0 24
V2 12V 0 12
M1 N003 N006 0 0 BSZ110N06NS3
R1 24V N001 12
L1 N001 N003 5µ
Q1 12V N002 N005 0 2N2222
Q2 0 N002 N005 0 2N2907
R2 N002 N004 100
R3 12V N004 100
XU1 N007 0 N004 0 NC_01 4N25
R4 N006 N005 50
V3 N007 0 PULSE(0 3 0 1n 1n 20u 40u)
D1 0 N003 MBRS360
D2 N003 N001 MBRS360
.model D D
.lib C:\users\h3l\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\h3l\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\h3l\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10m 0
.lib 4N25.sub
.backanno
.end
